US08314091B2
A stirred mixture of 1-(hydroxymethyl)cyclopropanecarbonitrile (24.30 mmol, 2.36 g) in dichloromethane (30 mL) was treated with triethylamine (48.6 mmol, 6.83 mL, 4.92 g) and portionwise with methanesulfonyl chloride (31.6 mmol, 2.445 mL, 3.62 g) keeping the reaction mixture at 0° C. The solution was allowed to stir for 1 hour then diluted with saturated sodium hydrogencarbonate and extracted with 10% methanol/dichloromethane (×3). The organic layers were combined and concentrated under reduced pressure to give the intermediate (1-cyanocyclopropyl)methyl methanesulfonate (3.77 g).

reactant | 1-(hydroxymethyl)cyclopropanecarbonitrile | 24.30 mmol, 2.36 g | OCC1(CC1)C#N | C5H7NO
reactant | triethylamine | 48.6 mmol, 6.83 mL, 4.92 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 31.6 mmol, 2.445 mL, 3.62 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | (1-cyanocyclopropyl)methyl methanesulfonate | 3.77 g | CS(=O)(=O)OCC1(CC1)C#N | C6H9NO3S
